US06100423
Scheme II illustrates methodology useful for preparing the ethyl N-gly-amino-3-(3,5-dihalo-2-hydroxy)phenyl propionate portion which can be coupled to the tetrahydropyrimidinobenzoic acid moiety. Briefly, 3,5-halo substituted salicylaldehydes may be prepared by direct halogenation as, for example, would be the case where 5-bromosalicylaldehyde is slurried in acetic acid and an equivalent or more of chlorine is added to yield 3-chloro-5-bromo-2-hydroxybenzaldehyde. Some product precipitates and can be recovered by filtration. The remainder may be recovered by diluting the filtrate with water and isolating the precipitate. Combining the solids and drying gives 3-chloro-5-bromo-2-hydroxybenzaldehyde. 3-iodo-5-chlorosalicylaldehyde may be prepared by reacting 5-chlorosalicylaldehyde with N-iodosuccinimide in DMF and subjecting the reaction mixture to usual work-up conditions. 3-iodo-5-bromosalicylaldehyde may be prepared by reacting 5-bromosalicylaldehyde in acetonitrile with potassium iodide and chloramine T. Work-up gives a material that when treated with hexanes gives the desired 3-iodo-5-chlorosalicylaldehyde.

reactant | 5-bromosalicylaldehyde | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-chloro-5-bromo-2-hydroxybenzaldehyde | ClC=1C(=C(C=O)C=C(C1)Br)O | C7H4BrClO2
